US03993643
1-(2-Picolyl)-2-[2-(5-nitro-2-furyl)vinyl]imidazole
Using the same general procedure of Example 1, the captioned compound was prepared using 2-picolyl chloride and 2-[2-(5-nitro-2-furyl)vinyl]imidazole. The resulting yellow product was recrystallized from benzene-petroleum ether and melted at 141°-142°.

reactant | 2-picolyl chloride | N1=C(C=CC=C1)CCl | C6H6ClN
reactant | 2-[2-(5-nitro-2-furyl)vinyl]imidazole | [N+](=O)([O-])C1=CC=C(O1)C=CC=1NC=CN1 | C9H7N3O3
product | 1-(2-Picolyl)-2-[2-(5-nitro-2-furyl)vinyl]imidazole | N1=C(C=CC=C1)CN1C(=NC=C1)C=CC=1OC(=CC1)[N+](=O)[O-] | C15H12N4O3
